US05478820
Allyl 5-amino-2-fluorobenzoate
2-Fluoro-5-nitrobenzoic acid (4.16 g, 22.5 mM) was dissolved in DMF (45 ml), and anhydrous K2CO3 (4.65 g, 33.7 mM) added with stirring. Allyl bromide (2.38 ml, 28.1 mM) was run in, the mixture was stirred for 18 hours at ambient temperature before being poured into water (450 ml) and extracted with diethyl ether (3×100 ml). The combined extracts were dried over MgSO4, and evaporated to give a yellow oil (5.4 g). The oil was purified by chromatography on silica, eluting with a mixture of ethyl acetate/hexane (12.5:87.5), to give allyl 2-fluoro-5-nitrobenzoate (4.64 g, 92%). Nmr (CDCl3): δ4.89 (d, 2H); 5.30-5.50 (m, 2H); 5.90-6.10 (m, 1H); 7.32 (t, 1H); 8.38-8.46 (m, 1H); 8.86 (dd, 1H).

reactant | 2-Fluoro-5-nitrobenzoic acid | 22.5 mM, 4.16 g | FC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | K2CO3 | 33.7 mM, 4.65 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Allyl bromide | 28.1 mM, 2.38 ml | C(C=C)Br | C3H5Br
reactant | water | 450 ml | O | H2O
solvent | DMF | 45 ml | CN(C)C=O | C3H7NO
product | Allyl 5-amino-2-fluorobenzoate | 5.4 g | NC=1C=CC(=C(C(=O)OCC=C)C1)F | C10H10FNO2
